US08026257B2
6-(Trifluoromethyl)-1H-indole-4-carbaldehyde.
A solution of 4-bromo-6-(trifluoromethyl)-1H-indole (5.23 g, 19.81 mmol) in tetrahydrofuran (20 ml) was cooled to −78 ° C. and treated slowly with n-butyllithium (1.6 M solution in hexanes, 39.6 ml, 63.4 mmol). The solution was stirred for 15 min at −78 ° C., and then treated with dimethylformamide (7.67 ml, 99 mmol), and stirred for 30 minutes more, allowing the reaction to warm to ambient temperature. The resulting solution was poured into brine and extracted with ethyl acetate. The pooled organics were dried over sodium sulfate and concentrated to give an amber oil. Column chromatography (ethyl acetate/hexanes gradient elution) afforded 1.17 g, (32%). 1H-NMR (CDCl3, 500 MHz) δ ppm 10.28 (s, 1H), 8.72 (br s, 1H), 7.93 (s, 1H), 7.88 (s, 1H), 7.58 (s, 1H), 7.42 (s, 1H). Mass spec.: 214.14 (MH)+.

reactant | 4-bromo-6-(trifluoromethyl)-1H-indole | 19.81 mmol, 5.23 g | BrC1=C2C=CNC2=CC(=C1)C(F)(F)F | C9H5BrF3N
reactant | n-butyllithium | 63.4 mmol, 1.6 M, 39.6 ml | C(CCC)[Li]
reactant | dimethylformamide | 99 mmol, 7.67 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 6-(Trifluoromethyl)-1H-indole-4-carbaldehyde | FC(C=1C=C(C=2C=CNC2C1)C=O)(F)F | C10H6F3NO
